US05175159
(+/-)-N-(2,3-DIHYDRO-1-METHYL-2-OXO-5-PHENYL-1H-1,4-BENZODIAZEPIN-3-YL)-TRICYCLO(3.3.1.1(3,7))DECANE-1-CARBOXAMIDE
Equimolar amounts of 3(R,S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and adamantane-1-carboxylic acid chloride were mixed in methylene chloride. The pH was adjusted to 8.5 with triethylamine and the reaction stirred 10 mins at 25° C. The mixture was flash chromatographed on silica gel (5% Et2O in Et2O in Ch2Cl2CH2CL2) and the title compound obtained by trituration with ethyl acetate: (mp 256°-257° C.).

reactant | 3(R,S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | adamantane-1-carboxylic acid chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (+/-)-N-(2,3-DIHYDRO-1-METHYL-2-OXO-5-PHENYL-1H-1,4-BENZODIAZEPIN-3-YL)-TRICYCLO(3.3.1.1(3,7))DECANE-1-CARBOXAMIDE | CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C21CC3CC(CC(C2)C3)C1)=O | C27H29N3O2
